US04921856
(a) 3-[4-[4-(3-phthalimidopropyl)-1H-imidazol-1-yl]benzoyl]-propionic acid
5.10 g (20 mmol) of 4-(3-phthalimidopropyl)-imidazole followed by 3.92 g (20 mmol) of 3-(4-fluorobenzoyl)-propionic acid are added portionwise to a suspension of 1.20 g (40 mmol) of sodium hydride (80% on paraffin oil) in 50 ml of dimethyl sulphoxide. The reaction mixture is initially stirred at room temperature until gas evolution ceases and then at 100° C. for 17 hours. After cooling, the mixture is poured out on 50 ml of water and extracted with 3×50 ml dichloromethane. The aqueous phase is then adjusted to pH 5 with 2N hydrochloric acid and the precipitated solid is suction filtered and recrystallized from methanol.

reactant | 4-(3-phthalimidopropyl)-imidazole | 20 mmol, 5.10 g | C1(C=2C(C(N1CCCC=1N=CNC1)=O)=CC=CC2)=O | C14H13N3O2
reactant | 3-(4-fluorobenzoyl)-propionic acid | 20 mmol, 3.92 g | FC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9FO3
reactant | sodium hydride | 40 mmol, 1.20 g | [H-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 3-[4-[4-(3-phthalimidopropyl)-1H-imidazol-1-yl]benzoyl]-propionic acid | C1(C=2C(C(N1CCCC=1N=CN(C1)C1=CC=C(C(=O)CCC(=O)O)C=C1)=O)=CC=CC2)=O | C24H21N3O5
